US07479562B2
1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one
To a stirred solution of 2-imidazolidone (5.0 g, 60 mmol) in DMF (100 mL) was added NaH (2.4 g, 60% in mineral oil, 60 mmol). The reaction was then heated to 50° C. and was allowed to stir until bubbling of H2 ceased (˜1 hour). To the mixture was added dropwise (3-bromopropoxy)-tert-butyldimethylsilane (13.5 mL, 60 mmol). The reaction mixture was allowed to stir for 3 hours at 50° C. After 3 hours, the reaction was cooled to room temperature and condensed under reduced pressure and then dissolved in DCM (250 mL) and washed with 1N HCl (500 mL), water (500 mL), NaCl (sat.) (500 mL), dried over MgSO4 and then filtered. The solvent was removed under reduced pressure. The crude material was purified via silica gel chromatography (10% MeOH/DCM) to afford the title compound in 45% yield (6.9 g, 26.7 mmol).

reactant | 2-imidazolidone | 60 mmol, 5.0 g | N1C(NCC1)=O | C3H6N2O
reactant | NaH | 60 mmol, 2.4 g | [H-].[Na+]
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 60 mmol, 13.5 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one | 45% yield | [Si](C)(C)(C(C)(C)C)OCCCN1C(NCC1)=O | C12H26N2O2Si
